US07432279B2
6-(benzylamino)-4-[(3-chloro-4-fluorophenyl)amino]-1,7-naphthyridine-3-carbonitrile
Following the procedure described above in Example 34, 4-(3-Chloro-4-fluoro-phenylamino)-6-fluoro-[1,7]naphthyridine-3-carbonitrile was reacted with benzylamine. The crude product was purified by flash column chromatography (1% methanol in methylene chloride) to give a yellow solid (0.051 g, 54%). 1H NMR (400 MHz, DMSO-D6) δ ppm 4.5 (d, J=6.3 Hz, 2 H) 7.0 (s, 1 H) 7.2 (t, J=7.2 Hz, 1 H) 7.3 (m, 5 H) 7.5 (m, 2 H) 7.6 (dd, J=6.6, 2.5 Hz, 1 H) 8.3 (s, 1 H) 8.9 (s, 1 H) 9.6 (s, 1 H).

reactant | 4-(3-Chloro-4-fluoro-phenylamino)-6-fluoro-[1,7]naphthyridine-3-carbonitrile | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CN=C(C=C12)F)C#N | C15H7ClF2N4
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | 6-(benzylamino)-4-[(3-chloro-4-fluorophenyl)amino]-1,7-naphthyridine-3-carbonitrile | 0.051 g, 54% | C(C1=CC=CC=C1)NC=1C=C2C(=C(C=NC2=CN1)C#N)NC1=CC(=C(C=C1)F)Cl | C22H15ClFN5
